US07645755B2
c) 4-(4-Amino-3-bromo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (0.20 g, 0.71 mmol) (as prepared in the previous step) in DCM (3 mL) was added N-bromosuccinimide (NBS) (0.13 g, 0.71 mmol), and the reaction stirred at RT for 10 h. The reaction was diluted with EtOAc (10 mL) and washed with NaHCO3 (2×10 mL) and brine (10 mL). Concentration of the organic layer gave 0.26 g (100%) of the title compound as a yellow foam. Mass spectrum (ESI, m/z): Calcd. for C16H23BrN2O2, 355.1 (M+H), found 355.1.

reactant | 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.71 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)N | C16H24N2O2
reactant | N-bromosuccinimide | 0.71 mmol, 0.13 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 4-(4-Amino-3-bromo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.26 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=C(C=C1)N)Br | C16H23BrN2O2
